US05359114
In a 500 ml three-neck flask provided with a magnetic stirrer and a reflux condenser were charged 29.3 g (0.129 mole) of cyclopentyl triethoxysilane, 165.9 g (2.24 mole) of tert-butyl alcohol and 2.06 g (30.3 m mole) of sodium ethoxide, which were then reacted with each other in an oil bath of 85° C. for 24 hours under stirring. Then, trimethylchlorosilane was added to neutralize the alkali. Then, 21.6 g (0.0828 mole) of tert-butoxy cyclopentyl diethoxysilane were obtained by vacuum distillation. Its structure was confirmed as in Example 1. The yield was 64%.

reactant | cyclopentyl triethoxysilane | 0.129 mole, 29.3 g | C1(CCCC1)[Si](OCC)(OCC)OCC | C11H24O3Si
reactant | tert-butyl alcohol | 2.24 mole, 165.9 g | C(C)(C)(C)O | C4H10O
reactant | sodium ethoxide | 2.06 g | [O-]CC.[Na+]
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
product | tert-butoxy cyclopentyl diethoxysilane | 0.0828 mole, 21.6 g, yield was 64% | C(C)(C)(C)O[Si](OCC)(OCC)C1CCCC1 | C13H28O3Si
